US09290519B2
Preparation of 8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-N-(o-tolyl)-1,2,3,4-tetrahydronaphthalen-1-amine
To a solution of 30.8 g (97.5 mmol) (8-bromo-1,2,3,4-tetrahydronaphthalen-1-yl)(2-methylphenyl)amine in 500 ml THF 39.0 ml (97.5 mmol) of 2.5M nBuLi in hexanes was added at −80° C. in argon atmosphere. The resulting mixture and stirred for 1 h at this temperature, and then 125 ml (200 mmol) of 1.7M tBuLi in pentane was added. The obtained mixture was stirred for 1 h at the same temperature. Further on, 36.3 g (195 mmol) of 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane was added. After that the cooling bath was removed, and the resulting mixture was stirred for 1 h at room temperature. Then, 10 ml of water was added, and this mixture was evaporated to dryness. The residue was diluted with 500 ml of water, and the title product was extracted with 3×200 ml of ethyl acetate. The combined organic extract was dried over Na2SO4 and evaporated to dryness. Yield 24.8 g (70%) of a yellow oil. Anal. Calc. For C23H30BNO2: C, 76.04; H, 8.32; N, 3.86. Found: C, 76.29; H, 8.60; N, 3.59. 1H NMR (CDCl3): δ 7.68-7.69 (m, 1H, 7-H in tetrahydronaphtalene); 7.24-7.33 (m, 3H, 5,6-H in tetrahydronaphtalene and 5-H in 2-methylphenyl); 7.13 (m, 1H, 3-H in 2-methylphenyl); 7.04 (m, 1H, 6-H in 2-methylphenyl); 6.74-6.77 (m, 1H, 4-H in 2-methylphenyl); 5.38-5.39 (m, 1H, 1-H in tetrahydronaphtalene); 3.78 (m, 1H, NH); 2.85-3.02 (m, 2H, 4-H in tetrahydronaphtalene); 2.21-2.26 (m, 1H, 3- or 3′-H in tetrahydronaphtalene); 2.12 (s, 3H, CH3 in 2-methylphenyl); 1.81-2.00 (m, 3H, 3′- or 3-H and 2-H in tetrahydronaphtalene); 1.20 (s, 6H, CH3 in BPin); 1.13 (s, 6H, CH3 in BPin).

reactant | (8-bromo-1,2,3,4-tetrahydronaphthalen-1-yl)(2-methylphenyl)amine | 97.5 mmol, 30.8 g | BrC=1C=CC=C2CCCC(C12)NC1=C(C=CC=C1)C | C17H18BrN
reactant | THF | 97.5 mmol, 500 ml | C1CCOC1 | C4H8O
reactant | nBuLi | 2.5M | [Li]CCCC
reactant | tBuLi | 200 mmol, 1.7M, 125 ml | [Li]C(C)(C)C
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 195 mmol, 36.3 g | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
solvent | pentane | CCCCC | C5H12
product | 8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-N-(o-tolyl)-1,2,3,4-tetrahydronaphthalen-1-amine | CC1(OB(OC1(C)C)C=1C=CC=C2CCCC(C12)NC1=C(C=CC=C1)C)C | C23H30BNO2
